US06716859B2
2-(Pyridin-3-yloxy)-pyridine-3-carboxylic acid (3-trifluoromethyl-benzylidene)-hydrazide
To a stirred solution of 2-(pyridin-3-yloxy)-nicotinic acid (0.432 g, 2.0 mmol) in THF (15 mL) at 0° C. was added oxalylchloride (2 mL, 2M in CH2Cl2, 4.0 mmol) dropwise. The solution was stirred at room temperature for 3 h. The solvent was evaporated in vacuo to yield 2-(pyridin-3-yloxy)-nicotinoyl chloride as a solid. To a solution of 2-(pyridin-3-yloxy)-nicotinoyl chloride in 15 mL THF was added 3-trifluoromethyl-benzylidene-hydrazine (0.376 g, 2.0 mmol) in 5 mL THF and 1 mL Et3N at 0° C. The reaction mixture was refluxed for 6 h and the solvent was evaporated. The residue was purified by chromatography with EtOAc:hexanes, 1:2, yielding (0.425 g, 55%) of the title compound. 1H NMR (DMSO-d6): 12.20 (s, 1H), 8.70 (s, 1H), 8.37 (s, 1H), 8.24 (s, 1H), 8.21 (d, J=7.8 Hz, 1H), 8.01 (d, J=7.5 Hz, 1H), 7.90 (m, 2H), 7.78 (t, J=7.8 Hz, 1H), 7.41 (m, 2H), 6.43 (m, 2H).

reactant | 2-(pyridin-3-yloxy)-nicotinoyl chloride | N1=CC(=CC=C1)OC1=C(C(=O)Cl)C=CC=N1 | C11H7ClN2O2
reactant | 3-trifluoromethyl-benzylidene-hydrazine | 2.0 mmol, 0.376 g | FC(C=1C=C(C=NN)C=CC1)(F)F | C8H7F3N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Et3N | 1 mL | CCN(CC)CC | C6H15N
product | 2-(Pyridin-3-yloxy)-pyridine-3-carboxylic acid (3-trifluoromethyl-benzylidene)-hydrazide | 0.425 g, 55% | FC(C=1C=C(C=NNC(=O)C=2C(=NC=CC2)OC=2C=NC=CC2)C=CC1)(F)F | C19H13F3N4O2
